US06489487B1
To a solution of 0.92 g (8.0 mmol) of 5-methoxy-2,4-dihydro-3H-1,2,4-triazol-3-one in 15 ml of dry acetonitrile was added 1.16 g (8.4 mmol) of potassium carbonate. To the mixture was added dropwise a solution of 1.59 g of crude 3-(bromomethyl)benzaldehyde in 30 ml of dry acetonitrile at 55° C. under an atmosphere of nitrogen. After the mixture was stirred at the same temperature for additional 6 hours, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried and concentrated. The residue (1.31 g) was subjected to silica gel column chromatography (eluted with n-hexane:ethyl acetate=1:1 and then 1:2) to obtain 0.35 g (1.50 mmol) of 4-(3-formylbenzyl)-5-methoxy-2,4-dihydro-3H-1,2,4-triazol-3-one as white powder.

reactant | 5-methoxy-2,4-dihydro-3H-1,2,4-triazol-3-one | 8.0 mmol, 0.92 g | COC=1NC(NN1)=O | C3H5N3O2
reactant | potassium carbonate | 8.4 mmol, 1.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(bromomethyl)benzaldehyde | 1.59 g | BrCC=1C=C(C=O)C=CC1 | C8H7BrO
reactant | water | O | H2O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-formylbenzyl)-5-methoxy-2,4-dihydro-3H-1,2,4-triazol-3-one | 1.50 mmol, 0.35 g | C(=O)C=1C=C(CN2C(NN=C2OC)=O)C=CC1 | C11H11N3O3
